US05294612
A solution of 1-(2-chloro-5-aminophenylmethyl)-3-methyl-6-(4-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-one dihydrochloride salt (0.55 g, 1.4 mmol), pyridine (10 ml) and triethylamine (0.18 ml, 1.36 mmol) was stirred at 0° C. under argon for 20 minutes and dimethylaminopyridine (0.016 g, 0.14 mmol) and 8-quinoline sulfonyl chloride (0.37 g, 1.6 mmol) were added. The mixture was stirred at 0° C. for 2.5 hours and poured into ice-water with stirring. The product was collected by filtration to afford 0.66 g (88%) of 1-[2-chloro-5-((8-quinolinylsulfonyl)amino)phenylmethyl]-3-methyl-6-(4-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-one as a tan powder, m.p. 325° C. (dec.) when dried at 100° C. for 24 hours in high vacuum.

reactant | 1-(2-chloro-5-aminophenylmethyl)-3-methyl-6-(4-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-one dihydrochloride salt | 1.4 mmol, 0.55 g | Cl.Cl.ClC1=C(C=C(C=C1)N)CN1NC(=C2C1=NC(=NC2=O)C2=CC=NC=C2)C
reactant | triethylamine | 1.36 mmol, 0.18 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 0.14 mmol, 0.016 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 8-quinoline sulfonyl chloride | 1.6 mmol, 0.37 g | N1=CC=CC2=CC=CC(=C12)S(=O)(=O)Cl | C9H6ClNO2S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-[2-chloro-5-((8-quinolinylsulfonyl)amino)phenylmethyl]-3-methyl-6-(4-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-one | 0.66 g, 88% | ClC1=C(C=C(C=C1)NS(=O)(=O)C=1C=CC=C2C=CC=NC12)CN1NC(=C2C1=NC(=NC2=O)C2=CC=NC=C2)C | C27H20ClN7O3S
